US07378418B2
Preparation of 2-(2-(4-Chlorophenoxy)ethyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
The solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (30 mg, 0.084 mmol), prepared as described in Example 1,1-(2-bromoethoxy)-4-chlorobenzene (22 mg, 0.094 mmol) and K2CO3 (18 mg, 0.013 mmol) in DMF (1 ml) was heated at 70° C. for 4 hours. After this time, the solution was cool to RT and diluted with ethyl acetate. The resultant solution was then washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The crude material was purified by preparative HPLC to give the title compound, 2-(2-(4-chlorophenoxy)ethyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (25.5 mg, 59%) was obtained as a yellow solid. MS M+H=511; 1H NMR (CDCl3) δ 8.19 (1H), 7.34 (4H), 7.28 (2H), 7.18 (2H), 7.28 (2H), 6.80 (2H), 4.44 (2H), 4.36 (2H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.084 mmol, 30 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | K2CO3 | 0.013 mmol, 18 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-(4-Chlorophenoxy)ethyl)-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC1=CC=C(OCCN2N=C3N(N=CC(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C2=O)C=C1 | C25H17Cl3N4O2
